* 
* Linear Technology LT1226 op amp model  
* Written: 1-26-1993 16:05:17 Type: Bipolar NPN input, internal comp.
* Modified by G.F. to add Cload compensation network and freq. shaping
* Typical specs: 
* Vos=3.0E-04, Ib=4.0E-06, Ios=1.0E-07, GBP=1E+09Hz, Phase mar.= 50deg, 
* SR(-)=4.0E+02V/us, SR(+)=4.0E+02V/us, Av= 104dB, CMRR=103dB, 
* Vsat(+)=1.300V, Vsat(-)=1.700V, Isc=+40/-40mA, Rout=50ohms, Iq=7.00mA.
* 
* Connections: + - V+V-O 
.SUBCKT LT1226 3 2 7 4 6 
* INPUT
RC1 7  80 9.9909E+02
RC2 7  90 9.9909E+02
Q1  80 2  10 QM1 
Q2  90 3  11 QM2 
CIN 2  3  2.0000E-12
C1  80 90 0.265E-12
*INPUT POLE AT 300MHZ
RE1 10 12 7.5
RE2 11 12 7.5
*	RE1, RE2 REDUCED VS LT1224 TO REFLECT HIGHER GM
IEE 12 4  1.4240E-03
RE  12 0  1.4205E+05
* INTERMEDIATE
*MODS: GA DEPENDENCE INVERTED (POLARITY SWAPPED)
*      R2 INCREASED TO 6MOHM (ALL GAIN IN ONE STAGE)
*      C2 TIED TO GROUND (WAS NODE 1), REDUCED TO 3.11PF FROM 3.54PF 
*      GB POLARITY REVERSED, GB=1/R02 FOR GAIN OF 1 
*      RF, CF ADDED FOR CLOAD NETWORK (REDUCES VALUE OF C2)
*      REVERSE POLARITY OF GNL,GPL,GCL,GCM FOR LIMITING BECAUSE OF GA REVERSAL
*      ADD MULTIPLE POLES AND A ZERO BETWEEN GA STAGE AND GB STAGE
GCM 8  0  12 0  16.0009E-08
GA  8  0  90 80 1.0009E-3
R2  8  0  7.0E+06
C2  8  0  3.21E-12
*POLE AT 180MHZ
GX1 0  28 8  0  1E-06
RX1 28 0  1E+06
CX1 28 0  0.885E-15
*POLE AT 180MHZ
GX2 0  38 28 0  1E-06
RX2 38 0  1E+06
CX2 38 0  0.885E-15
*POLE AT 180MHZ
GX3 0  48 38 0  1E-06
RX3 48 0  1E+06
CX3 48 0  0.885E-15  
*ZERO AT 60MHZ
GX4 0  58 48 0  1E-06
RX4 58 59 1E+06
LX4 59 0  2.65E-03
*POLE AT 150MHZ
GX5 0  68 58 0  1E-06
RX5 68 0 1E+06
CX5 68 0 1.06E-15
*POLE AT 150MHZ
GX6 0  78 68 0  1E-06
RX6 78 0  1E+06
CX6 78 0  1.06E-15
*
GB  0  1  78 0  20.4E-03
RO2 1  0  49
RF  8  99 2400
CF  99 6  5E-12
* OUTPUT 
RSO 1  6  1.0000E+00
ECL 18 0  1  6  2.3987E+01
GCL 8  0  20 0  1.0000E+00
RCL 20 0  1.0000E+01
D1  18 19 DM1  
VOD1 19 20 5.9605E-08
D2  20 21 DM1  
VOD2 21 18 5.9605E-08
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 8  0  70 7  1.0000E+00
VC  13 6  2.7909E+00
RPLA 7  70 1.0000E+01
RPLB 7  131 1.0000E+03
D4A 60 141 DM3 
D4B 141 14  DM3 
GNL 8  0  60 4  1.0000E+00
VE  6  14 3.1909E+00
RNLA 60 4  1.0000E+01
RNLB 141 4  1.0000E+03
* 
IP  7  4  5.5760E-03
DSUB 4  7  DM2  
* MODELS 
.MODEL QM1 NPN (IS=8.0000E-16 BF=1.7481E+02)
.MODEL QM2 NPN (IS=8.0930E-16 BF=1.7924E+02)
.MODEL DM1  D   (IS=1.0000E-20)
.MODEL DM2  D   (IS=8.0000E-16 BV=4.3200E+01)
.MODEL DM3  D   (IS=1.0000E-16)
.ENDS LT1226
* 
* - - - - - * fini LT1226 * - - - - - *
***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1993
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *